US07514566B2
To a 25 mL round-bottom flask was added (Boc)2O (386 mg, 1769 μmol), 5-bromo-N-methyl-1H-indazol-3-amine (200 mg, 885 μmol), N,N-dimethylpyridin-4-amine (216 mg, 1769 μmol), 1 mL of TEA, and 3 mL of MeCN. The reaction mixture was stirred for 15 hours and then concentrated and purified with silica gel column chromatography, eluting with 0-20% EtOAc/hexane to give tert-butyl 5-bromo-3-(tert-butoxycarbonyl)-1H-indazole-1-carboxylate (330 mg, 87.5% yield). 1H NMR (400 MHz, CDCl3) δ ppm 1.46 (s, 9H), 1.71 (d, J=1.57 Hz, 9H), 3.44 (d, J=1.76 Hz, 3H), 7.56-7.60 (m, 1H), 7.85 (s, 1H), 7.99 (d, J=8.80 Hz, 1H).

reactant | (Boc)2O | 1769 μmol, 386 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-bromo-N-methyl-1H-indazol-3-amine | 885 μmol, 200 mg | BrC=1C=C2C(=NNC2=CC1)NC | C8H8BrN3
catalyst | N,N-dimethylpyridin-4-amine | 1769 μmol, 216 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | MeCN | 3 mL | CC#N | C2H3N
product | tert-butyl 5-bromo-3-(tert-butoxycarbonyl)-1H-indazole-1-carboxylate | 330 mg, 87.5% yield | BrC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H21BrN2O4
